US06900243B2
c) [3-(2,5-Dichlorophenoxy)heptyl]methylcarbamic acid, 1-dimethylethyl ester
2,5-Dichlorophenol (163 mg, 1.00 mmol) and (3-hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester (360 mg, 1.47 mmol) were dissolved in tetrahydrofuran (10 ml). To the resulting solution was added tributylphosphine (0.380 ml, 1.50 mmol) and then 1,1′-(azodicarbonyl)dipiperidine (380 mg, 1.50 mmol). The solution was then heated to 50° C. under nitrogen for 3 h, and then allowed to stir at room temperature for a further 20 h. The mixture was then filtered and poured into sodium hydrogen carbonate solution. The mixture was extracted with diethyl ether three times and the combined organic fractions were washed with brine, then dried over magnesium sulfate. The solvent was evaporated and the residue eluted down a flash chromatography column using 10% ethyl acetate/isohexane as eluent to give 200 mg (51%) of the title compound as an oil.

reactant | 2,5-Dichlorophenol | 1.00 mmol, 163 mg | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | (3-hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester | 1.47 mmol, 360 mg | OC(CCN(C(OC(C)(C)C)=O)C)CCCC | C13H27NO3
reactant | tributylphosphine | 1.50 mmol, 0.380 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.50 mmol, 380 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [3-(2,5-Dichlorophenoxy)heptyl]methylcarbamic acid, 1-dimethylethyl ester | 200 mg, 51% | ClC1=C(OC(CCN(C(OC(C)(C)C)=O)C)CCCC)C=C(C=C1)Cl | C19H29Cl2NO3
